US08304036B2
10.1 Preparation of [5-(4-ethoxy-2,3-difluorophenyl)selenophen-2-yl]-methanol
3.9 g (12.4 mmol) of 5-(4-ethoxy-2,3-difluorophenyl)selenophene-2-carbaldehyde as a suspension in 100 ml of diethyl ether are added slowly to a suspension of 0.47 g (12.4 mmol) of lithium aluminium hydride in 20 ml of diethyl ether with ice-cooling. When the addition is complete, the mixture is stirred for 5 min, and water is added dropwise to the mixture until evolution of hydrogen no longer occurs. The mixture is filtered through Celite with MTBE. The filtrate is washed with water and dried using sodium sulfate. The solution is concentrated to dryness, and the crude product (yellowish crystals) is used directly for the subsequent reaction.

reactant | 5-(4-ethoxy-2,3-difluorophenyl)selenophene-2-carbaldehyde | 12.4 mmol, 3.9 g | C(C)OC1=C(C(=C(C=C1)C1=CC=C([Se]1)C=O)F)F | C13H10F2O2Se
reactant | lithium aluminium hydride | 12.4 mmol, 0.47 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | hydrogen | [H][H] | H2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | [5-(4-ethoxy-2,3-difluorophenyl)selenophen-2-yl]-methanol | C(C)OC1=C(C(=C(C=C1)C1=CC=C([Se]1)CO)F)F | C13H12F2O2Se
